US08497381B2
Step 1: [6-(4-Chloro-benzyloxy)-2′-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid 4-chloro-benzyl ester
Prepared according to the procedure described in Example 14, Step 3, using the following starting materials: [6-hydroxy-2′-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid and 4-chlorobenzyl bromide.

reactant | [6-hydroxy-2′-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid | OC1=CC=C(C=C1C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)CC(=O)O | C26H22F3NO5
reactant | 4-chlorobenzyl bromide | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
product | [6-(4-Chloro-benzyloxy)-2′-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid 4-chloro-benzyl ester | ClC1=CC=C(COC(CC=2C=C(C(=CC2)OCC2=CC=C(C=C2)Cl)C2=C(C=C(C=C2)C(F)(F)F)CN2C(O[C@@H]([C@@H]2C)C2=CC=CC=C2)=O)=O)C=C1 | C40H32Cl2F3NO5
